US06288096B1
5-([4-[2-(4-Methylureidophenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
1.2 g (3.02 mmole) 5-(4-[2-(4-methylureidophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione was hydrogenated for 18 hours in 100 ml dimethylformamide and 10 ml acetic acid with 1 g Pd/C (10%) as catalyst. The catalyst was filtered off and the solvent was evaporated in vacuo. Ethyl acetate was added and the product was extracted with potassium carbonate in water. A black precipitate was filtered off and the ethyl acetate phase was extracted with more potassium carbonate solution. The water phase was acidified with dilute hydrochloric acid and extracted with ethyl acetate. The organic phase was dried and evaporated in vacuo and recrystallized in methanol to give 0.71 g (yield 59%) of the desired product.

reactant | 5-(4-[2-(4-methylureidophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 3.02 mmole, 1.2 g | CNC(NC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1)=O | C20H19N3O4S
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 5-([4-[2-(4-Methylureidophenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 0.71 g, yield 59% | CNC(NC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O)=O | C20H21N3O4S
